US05736568
A mixture of 4-{2-[N-(4-chlorobenzyl)-N-methylamino]ethoxy}-3-(dimethylaminomethyl)benzonitrile (5.0 g), tert-butanol (50 ml) and powdered potassium hydroxide (10.0 g) was boiled under reflux for 1 hour. The mixture was cooled to ambient temperature and poured into saturated brine (100 ml). The mixture was extracted with dichloromethane to give an oil which solidified slowly on drying under vacuum. The solid obtained was recrystallised from propan-2-ol to give 4-{2-[N-(4-chlorobenzyl)-N-methylamino]ethoxy}-3-(dimethylaminomethyl)benzamide, m.p. 123°-124° C.

reactant | 4-{2-[N-(4-chlorobenzyl)-N-methylamino]ethoxy}-3-(dimethylaminomethyl)benzonitrile | 5.0 g | ClC1=CC=C(CN(C)CCOC2=C(C=C(C#N)C=C2)CN(C)C)C=C1 | C20H24ClN3O
reactant | tert-butanol | 50 ml | C(C)(C)(C)O | C4H10O
reactant | potassium hydroxide | 10.0 g | [OH-].[K+]
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 4-{2-[N-(4-chlorobenzyl)-N-methylamino]ethoxy}-3-(dimethylaminomethyl)benzamide | ClC1=CC=C(CN(C)CCOC2=C(C=C(C(=O)N)C=C2)CN(C)C)C=C1 | C20H26ClN3O2
